US07517532B2
Step 2: 4-[(tert-Butoxy)carbonyl]-1-(4-fluorobenzyl)-6-methylpiperazin-2-one
A mixture of N-[(tert-butoxy)carbonyl]-N-(2-oxopropyl)glycine (0.66 g, 2.87 mmol), 4-fluorobenzylamine (0.23 g, 1.87 mmol) in dichloroethane (14 mL) was stirred at room temperature for one hour. Sodium triacetoxyborohydride (0.79 g, 3.73 mmol) was added and the reaction mixture stirred at room temperature overnight. The resultant mixture was concentrated under vacuum. The residue was dissolved in DMF (12 mL), treated with EDC (0.55 g), and stirred at room temperature overnight. The resultant mixture was concentrated under vacuum. The residue was partitioned between ethyl acetate and dilute aqueous HCl. The organic extract was washed with brine (to pH 7), dried over anhydrous magnesium sulfate, filtered, and concentrated to provide the title compound.

reactant | N-[(tert-butoxy)carbonyl]-N-(2-oxopropyl)glycine | 2.87 mmol, 0.66 g | C(C)(C)(C)OC(=O)N(CC(=O)O)CC(C)=O | C10H17NO5
reactant | 4-fluorobenzylamine | 1.87 mmol, 0.23 g | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | Sodium triacetoxyborohydride | 3.73 mmol, 0.79 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 14 mL | ClC(C)Cl | C2H4Cl2
product | 4-[(tert-Butoxy)carbonyl]-1-(4-fluorobenzyl)-6-methylpiperazin-2-one | C(C)(C)(C)OC(=O)N1CC(N(C(C1)C)CC1=CC=C(C=C1)F)=O | C17H23FN2O3
